US06861539B1
Preparation of 3(S)-[N-(t-butoxycarbonyl)-N-benzylamino]-1,2-(S)-epoxy-4-phenylbutane Method 1:
A solution of 2.5 g (7.37 mmoles) of N-(t-butoxycarbonyl)-N-benzyl-L-phenylalaninal and 0.72 mL of chloroiodomethane in 35 mL of THF was cooled to −78° C. A 4.64 mL of a solution of n-butyllithium (1.6 M in hexane, 7.42 mmoles) was added slowly, keeping the temperature below −70° C. The mixture was stirred for 10 minutes between −70 to −75° C. Two additional portions of 0.22 mL of chloroiodomethane and 1.4 mL of n-butyllithium was added sequentially and the mixture was stirred for 10 minutes between −70 to −75° C. after each addition. Four additional portions of 0.11 mL of chloroiodomethane and 0.7 mL of n-butyllithium was added sequentially and the mixture was stirred for 10 minutes between −70 to −75° C. after each addition. The mixture was warmed to room temperature for 3.5 hours. The product was quenched at below 5° C. with 24 mL of ice-cold water. The biphasic layers were separated and the aqueous layer was extracted twice with 30 mL of ethyl acetate. The combined organic layers was washed three times with 10 mL water, then with 10 mL brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to give 2.8 g of a yellow crude oil. This crude oil (>100% yield) is a mixture of the diastereomeric epoxides N,αS-bis(phenylmethyl)-N-(t-butoxycarbonyl)-2S-oxiranemethanamine and N,αS-bis(phenylmethyl)-N-(t-butoxycarbonyl)-2R-oxiranemethanamine. The crude mixture is used directly in the next step without purification.

reactant | N-(t-butoxycarbonyl)-N-benzyl-L-phenylalaninal | 7.37 mmoles, 2.5 g | C(C)(C)(C)OC(=O)N([C@@H](CC1=CC=CC=C1)C=O)CC1=CC=CC=C1 | C21H25NO3
reactant | chloroiodomethane | 0.72 mL | ClCI | CH2ClI
reactant | n-butyllithium | 7.42 mmoles, 1.6 M | C(CCC)[Li]
reactant | chloroiodomethane | 0.22 mL | ClCI | CH2ClI
reactant | n-butyllithium | 1.4 mL | C(CCC)[Li]
reactant | chloroiodomethane | 0.11 mL | ClCI | CH2ClI
reactant | n-butyllithium | 0.7 mL | C(CCC)[Li]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 3(S)-[N-(t-butoxycarbonyl)-N-benzylamino]-1,2-(S)-epoxy-4-phenylbutane | 2.8 g | C(C)(C)(C)OC(=O)N(CC1=CC=CC=C1)[C@H]([C@H]1CO1)CC1=CC=CC=C1 | C22H27NO3
